US07396836B2
2-(6-Chloro-3-pyridyl)-1-(2-furyl)-1-ethanone
To a mixture of 2-furaldehyde (7.9 g, 82.2 mmol) and zinc (II) iodide (110 mg, 0.345 mmol) was dropwise added trimethylsilyl cyanide (11.0 ml, 82.5 mmol) over 10 minutes at 0° C. under an atmosphere of nitrogen gas, followed by stirring as it was. After 30 minutes, the reaction mixture was diluted with tetrahydrofuran (200 ml) and then cooled to −78° C. A 1.0M solution of lithium bis(trimethylsilyl)amide in tetrahydrofuran (86 ml, 86 mmol) was added dropwise thereto over 1 hour and then a solution of (6-chloro-3-pyridyl)methyl methanesulfonate (18.1 g, 81.7 mmol) in tetrahydrofuran (50 ml) was added dropwise over 1.5 hours thereto, followed by stirring while gradually elevated to room temperature. After 12.5 hours, a 1.0M solution of tetrabutylammonium fluoride in tetrahydrofuran (86 ml, 86 mmol) was added thereto, followed by stirring as it was. After further 30 minutes, the reaction mixture was diluted with a saturated aqueous ammonium chloride solution and ethyl acetate. The resulting organic layer was washed with a saturated aqueous ammonium chloride solution twice, dried over anhydrous sodium sulfate and concentrated. The residue was subjected to silica gel column chromatography (elution solvent; hexane, hexane:ethyl acetate=10:1, 4:1, 3:1, and 2:1) and then suspended in hexane. Subsequently, the resulting precipitates were collected by filtration, to give the title compound (11.9 g, 54%) as a pale brown solid.

reactant | 2-furaldehyde | 82.2 mmol, 7.9 g | O1C(=CC=C1)C=O | C5H4O2
reactant | trimethylsilyl cyanide | 82.5 mmol, 11.0 ml | C[Si](C)(C)C#N | C4H9NSi
reactant | lithium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | (6-chloro-3-pyridyl)methyl methanesulfonate | 81.7 mmol, 18.1 g | CS(=O)(=O)OCC=1C=NC(=CC1)Cl | C7H8ClNO3S
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | ammonium chloride | [Cl-].[NH4+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | zinc (II) iodide | 0.345 mmol, 110 mg | [I-].[Zn+2].[I-]
solvent | tetrahydrofuran | 86 mmol, 86 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 86 mmol, 86 ml | O1CCCC1 | C4H8O
product | 2-(6-Chloro-3-pyridyl)-1-(2-furyl)-1-ethanone | 11.9 g, 54% | ClC1=CC=C(C=N1)CC(=O)C=1OC=CC1 | C11H8ClNO2
